US09315501B2
Step 1. 4-Bromo-5-(2,4-difluorophenoxy)-2-nitroaniline
A solution of 4-bromo-5-fluoro-2-nitroaniline (1.08 g, 4.60 mmol) [Combi-Blocks, AN-1501] and cesium carbonate (1.80 g, 5.52 mmol) in dimethyl sulfoxide (5.0 mL) was treated with 2,4-difluorophenol (0.90 mL, 5.53 mmol) [Acros Organics, 24320] and stirred at 80° C. for 30 min. The reaction mixture was diluted with ethyl acetate and water. The organic layer was separated and washed with water and brine, dried with magnesium sulfate, filtered, and concentrated to give the desired product (1.50 g, 95%) as a yellow solid that was used without further purification. LCMS calculated for C12H8BrF2N2O3 (M+H)+: m/z=345.0, 347.0. found: 345.0, 346.9.

reactant | 4-bromo-5-fluoro-2-nitroaniline | 4.60 mmol, 1.08 g | BrC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4BrFN2O2
reactant | cesium carbonate | 5.52 mmol, 1.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,4-difluorophenol | 5.53 mmol, 0.90 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
solvent | dimethyl sulfoxide | 5.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Bromo-5-(2,4-difluorophenoxy)-2-nitroaniline | 1.50 g, 95% | BrC1=CC(=C(N)C=C1OC1=C(C=C(C=C1)F)F)[N+](=O)[O-] | C12H7BrF2N2O3
